US07119120B2
To a 100 mL of anhydrous THF in a 250 mL round bottom flask containing a stirring bar, 2-iodo-4-bromoaniline (2.00 g, 6.70 mmol) was added along with 3-trifluoromethylphenylisocyanate (1.51 g, 7.00 mmol) and 52 mg of pyridine. The resulting solution was heated at 65° C. overnight. THF was removed by rotary evaporation and the product was recrystallized from ethyl acetate to give 3.0 g (92%) of 1-(2-iodo-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea as a white solid.

reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | 2-iodo-4-bromoaniline | 6.70 mmol, 2.00 g | IC1=C(N)C=CC(=C1)Br | C6H5BrIN
reactant | 3-trifluoromethylphenylisocyanate | 7.00 mmol, 1.51 g | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
solvent | pyridine | 52 mg | N1=CC=CC=C1 | C5H5N
product | 1-(2-iodo-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea | 3.0 g, 92% | IC1=C(C=CC(=C1)Br)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C14H9BrF3IN2O
